### PR TITLE
Adding gtn_sorted_uniq_geq

### PR DESCRIPTION
**Pull request by jouvelot**
##### Motivation for this change

This PR adds `gtn_sorted_uniq_geq` to `path.v for` completeness (only the ltn/leq version exists as of now).

##### Minimal TODO list

- added corresponding entries in `CHANGELOG_UNRELEASED.md`

- [ ] added corresponding documentation in the headers
- [ ] tried to abide by the [contribution guide](https://github.com/math-comp/math-comp/blob/master/CONTRIBUTING.md)
- [ ] this PR contains an optimum number of meaningful commits

See [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs) for details.

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs).

### CODE REVIEW

File: mathcomp/ssreflect/path.v [hunk 1]
```diff
@@ -1176,6 +1176,11 @@ rewrite (sorted_pairwise leq_trans) (sorted_pairwise ltn_trans) uniq_pairwise.
 by rewrite -pairwise_relI; apply/eq_pairwise => ? ?; rewrite ltn_neqAle.
 Qed.
 
+Lemma gtn_sorted_uniq_geq s : sorted gtn s = uniq s && sorted geq s.
+Proof. 
+by rewrite -rev_sorted -[in RHS]rev_sorted -rev_uniq ltn_sorted_uniq_leq.
+Qed.
```
Comment (pi8027) [inline mathcomp/ssreflect/path.v:1182]: This proof can be made even shorter:
```suggestion
Proof. by rewrite -rev_sorted ltn_sorted_uniq_leq rev_sorted rev_uniq. Qed.
```

**Review by pi8027 — APPROVED** [review]

**Comment by proux01** [comment]
CI failure is unrelated

**Comment by pi8027** [comment]
@proux01 IIRC, this is not the first time coq-master introduced a universe inconsistency in CoqEAL. Can we add CoqEAL to the Coq CI?

**Comment by proux01** [comment]
I would also lean toward that solution, it's quite painful to debug those universe inconsistency. But to be honest, I'm not sure those issues always come from actual Coq bug.
@CohenCyril do you have an opinion?
In any case, we should first add coqeal to coq-elpi CI

**Comment by CohenCyril** [comment]
They are not coq bugs, they often come from the lack of universe polymorphism.
